US07435738B2
Preparation of 7-amino-2(3H)-benzoxazolone
107.5 g (1 mole) of 5-chloro-7-nitro-2(3H)-benzoxazolone prepared according to Example 1d was suspended in 1000 ml of ethanol. 9.25 g of Pd/C 5% and 50 ml of ethanol were added and the mixture was hydrogenated at 4 bar hydrogen pressure for four to six hours at 60-65° C. while vigorously stirring. When the hydrogenation was complete, the mixture was cooled to 45° C. and filtered over Hyflo®. The Hyflo®) was washed twice with 175 ml of methanol. 500 ml of solvent was distilled off under reduced pressure at 50° C., followed by addition of 250 ml of water and removal of 300 ml of solvent was by distillation under reduced pressure at 50° C. The last procedure was repeated twice and finally 250 ml of water was added and 400 ml of solvent was distilled of. The resulting mixture was cooled to 0-5° C. in about one hour. The solid was filtered off and, washed three times with 125 ml of cold water, and dried at 50° C. and 100 mbar under a gentle nitrogen stream till dry. Yield about 94%.

reactant | 5-chloro-7-nitro-2(3H)-benzoxazolone | 1 mole, 107.5 g | ClC=1C=C(C2=C(NC(O2)=O)C1)[N+](=O)[O-] | C7H3ClN2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
catalyst | Pd/C | 9.25 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-amino-2(3H)-benzoxazolone | Yield about 94% | NC1=CC=CC=2NC(OC21)=O | C7H6N2O2
